US06451814B1
4-(4-{2-[(2S)-3-(6-Amino-pyridin-3-yloxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-{[(2S)-2-Hydroxy-3-({2-[(E)-2-(4-nitrophenyl)diazenyl]-4-pyridinyl}oxy)propyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide (0.1 g, 0.15 mmol) was dissolved in ethanol (10 mL) and 10% palladium on carbon (0.015 g) added. The solution was shaken in a Parr apparatus at 50 psi hydrogen atmosphere for 1.5 hours, filtered through a Celite pad and the solvent removed in vacuo. The residue was purified by flash chromatography on silica gel Merck-60 (eluant: 10:1 chloroform-methanol) to furnish the title compound (0.02 g, 0.037 mmol).

reactant | 4-[4-(2-{[(2S)-2-Hydroxy-3-({2-[(E)-2-(4-nitrophenyl)diazenyl]-4-pyridinyl}oxy)propyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide | 0.15 mmol, 0.1 g | O[C@@H](CNCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1)COC1=CC(=NC=C1)\N=N\C1=CC=C(C=C1)[N+](=O)[O-] | C36H50N8O5
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.015 g | [Pd] | Pd
product | 4-(4-{2-[(2S)-3-(6-Amino-pyridin-3-yloxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.037 mmol, 0.02 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC=1C=NC(=CC1)N)O | C30H48N6O3
